US05707603
1-[2-(6-Bromo-2-pyridinyl)-2-oxoethyl]pyridinium iodide
To a stirred solution of 2-acetyl-6-bromopyridine (100 g; 0.5 mole) in 600 mL pyridine was added iodine (127 g; 0.5 mole). The mixture was heated on a steam bath for 45 minutes, and the product crystallized on cooling. The solid was filtered and the light yellow crystalline cake was rinsed twice with methylene chloride. After drying, 183 g (90%) was obtained. MP 176°-178° C.; silica gel TLC system: 95acetone: 5 isopropanol.

reactant | 2-acetyl-6-bromopyridine | 0.5 mole, 100 g | C(C)(=O)C1=NC(=CC=C1)Br | C7H6BrNO
reactant | iodine | 0.5 mole, 127 g | II | I2
reactant | isopropanol | C(C)(C)O | C3H8O
reactant | pyridine | 600 mL | N1=CC=CC=C1 | C5H5N
product | 1-[2-(6-Bromo-2-pyridinyl)-2-oxoethyl]pyridinium iodide | [I-].BrC1=CC=CC(=N1)C(C[N+]1=CC=CC=C1)=O | InChI=1S/C12H10BrN2O.HI/c13-12-6-4-5-10(14-12)11(16)9-15-7-2-1-3-8-15;/h1-8H,9H2;1H/q+1;/p-1
